US07531663B2
45 cm3 of sulphinyl chloride and one drop of dimethylformamide are added to 2.1 g (6.51 mmol) of 3-carboxy-5-chloro-1-(quinolin-4-yl)-1H-indole at a temperature in the region of 20° C. under an argon atmosphere. After stirring at reflux for 1 hour, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa), giving 2.5 g of 5-chloro-3-chlorocarbonyl-1-(quinolin-4-yl)-1H-indole hydrochloride in the form of a cream-colored solid, which is used directly in the following step.

reactant | sulphinyl chloride | 45 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | 3-carboxy-5-chloro-1-(quinolin-4-yl)-1H-indole | 6.51 mmol, 2.1 g | C(=O)(O)C1=CN(C2=CC=C(C=C12)Cl)C1=CC=NC2=CC=CC=C12 | C18H11ClN2O2
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 5-chloro-3-chlorocarbonyl-1-(quinolin-4-yl)-1H-indole hydrochloride | 2.5 g | Cl.ClC=1C=C2C(=CN(C2=CC1)C1=CC=NC2=CC=CC=C12)C(=O)Cl | InChI=1S/C18H10Cl2N2O.ClH/c19-11-5-6-16-13(9-11)14(18(20)23)10-22(16)17-7-8-21-15-4-2-1-3-12(15)17;/h1-10H;1H
